US20010027196A1
To a stirred solution of 200 mg (1.17 mmol) 2-amino-4-chloro-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile in 10 ml dioxane under argon at room temperature were added 463 mg (1.29 mmol) tributyl-(4,5-dihydro-furan-2-yl)-stannane and 82 mg (0.12 mmol) bis(triphenylphosphine)palladium(II) chloride. The reaction mixture was heated at 100° C. for 16 h, then cooled to room temperature and concentrated in vacuo. Flash chromatography (ethyl acetate/hexane 1/1 then ethyl acetate then 5/95 methanol/ethyl acetate) afforded 65 mg (27%) 2-amino-4-(4,5-dihydro-furan-2-yl)-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile as a light yellow crystalline solid. ES-MS m/e (%): 205 (M+H+, 100).

reactant | 2-amino-4-chloro-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile | 1.17 mmol, 200 mg | NC=1NC(C(=C(N1)Cl)C#N)=O | C5H3ClN4O
reactant | tributyl-(4,5-dihydro-furan-2-yl)-stannane | 1.29 mmol, 463 mg | C(CCC)[Sn](C=1OCCC1)(CCCC)CCCC
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.12 mmol, 82 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-amino-4-(4,5-dihydro-furan-2-yl)-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile | 65 mg, 27% | NC=1NC(C(=C(N1)C=1OCCC1)C#N)=O | C9H8N4O2
